US09301951B2
Intermediate 76c: 6-(2-amino-5-(piperidin-1-yl)phenyl)-N-(1-(3-(trifluoromethyl)phenyl)-ethyl)pyrimidin-4-amine
Into a 100-mL round-bottom flask, was placed a solution of 6-(2-nitro-5-(piperidin-1-yl)phenyl)-N-(1-(3-(trifluoromethyl)phenyl)ethyl)pyrimidin-4-amine (400 mg, 0.85 mmol, 1.00 equiv) in acetic acid (5 mL). To this was added zinc (552 mg, 8.62 mmol, 10.00 equiv) in several batches at 70° C. The resulting solution was stirred for 1 h at 70° C. The solids were filtered out. The resulting mixture was concentrated under vacuum. The solution was adjusted to pH 8 with ammonia (1 mol/L). The resulting solution was extracted with 4×50 ml of ethyl acetate and the organic layers combined, dried over sodium sulfate, and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with methanol:dichloromethane (1:50). The product was obtained as 200 mg (53%) of a black solid.

reactant | 6-(2-nitro-5-(piperidin-1-yl)phenyl)-N-(1-(3-(trifluoromethyl)phenyl)ethyl)pyrimidin-4-amine | 0.85 mmol, 400 mg, 1.00 equiv | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCCCC1)C1=CC(=NC=N1)NC(C)C1=CC(=CC=C1)C(F)(F)F | C24H24F3N5O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 8.62 mmol, 552 mg, 10.00 equiv | [Zn] | Zn
product | 6-(2-amino-5-(piperidin-1-yl)phenyl)-N-(1-(3-(trifluoromethyl)phenyl)-ethyl)pyrimidin-4-amine | 200 mg, 53% | NC1=C(C=C(C=C1)N1CCCCC1)C1=CC(=NC=N1)NC(C)C1=CC(=CC=C1)C(F)(F)F | C24H26F3N5
